US04045433
2.8 g. (13.4 mmoles) of benzyloxycarbonyl-glycine are suspended in 27 ml. of dry ether, and 3 g. (15 mmoles) of phosphorous pentachloride are added in portions to the suspension at 0° C. The mixture is stirred for 20 minutes, and thereafter a solution of 2.86 g. (10 mmoles) of 1-methyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one in 15 ml. of dry tetrahydrofuran containing 9 ml. of triethylamine is added dropwise to the obtained solution. The reaction mixture is stirred in an ice bath for 6 hours, and evaporated to dryness under reduced pressure. The oily residue is dissolved in 100 ml. of chloroform, the chloroform solution is washed with 3×50 ml. of water, 1×50 ml. of sodium bicarbonate solution and with water again, dried, and evaporated to dryness under reduced pressure. The oily residue is covered with ether, upon which is solidifies. 4.28 g. (90 %) of 1-methyl-4-(N-benzyloxycarbonyl-aminoacetyl)-5-phenyl- 7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one are obtained; m.p.: 158°-160° C. (after recrystallization from ethanol), Rf2 = 0.60. Analysis: Calculated for C26H24O4N3Cl (M = 477.93): C: 65.2 % H: 5.1 % N: 8.8 % Found: C: 65.5 % H: 4.9 % N: 8.9 %

reactant | benzyloxycarbonyl-glycine | 13.4 mmoles | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | ether | CCOCC | C4H10O
reactant | phosphorous pentachloride | 15 mmoles | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1-methyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one | 10 mmoles | CN1C(CNC(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O | C16H15ClN2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | 1-methyl-4-(N-benzyloxycarbonyl-aminoacetyl)-5-phenyl- 7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one | 90 % | CN1C(CN(C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)C(CNC(=O)OCC2=CC=CC=C2)=O)=O | C26H24ClN3O4
